US07728150B2
3-(3-Fluorophenoxy)-propionic acid
Acetone (600 mL) is chilled using an ice/salt water bath, then chromium trioxide (14.45 g, 145 mmol) is added, followed by water (32 mL) and concentrated sulfuric acid (16 mL). The mixture is allowed to stir several minutes, then a solution of 3-(3-fluorophenoxy)-propan-1-ol (6.15 g, 36.1 mmol) in acetone (300 mL) is slowly added via an addition funnel over ˜1 h. The reaction is stirred at 0° C. for 5 h, and then 2-propanol (70 mL) is added. The reaction is filtered over diatomaceous earth, rinsed with acetone (˜100 mL), and the filtrate evaporated under reduced pressure, reconstituted in diethyl ether (500 mL), and washed with brine (2×500 mL). The organic layer is then dried over magnesium sulfate, filtered and evaporated under reduced pressure to afford the sub-title compound (6.00 g, 90%) as an off-white solid which is used without further purification: Rf 0.34 (95:5:0.5 dichloromethane/methanol/ammonium hydroxide); 1H NMR (300 MHz, CDCl3), δ2.85 (t, J=6.2 Hz, 2H), 4.23 (t, J=6.2 Hz, 2H), 6.59-6.70 (m, 3H), 7.18-7.24 (m, 1H), 7.30-9.60 (br s, 1H); 19F NMR (282 MHz, CDCl3), δ-112.01; APCI MS (negative mode) m/z 183 [C9H9FO3—H]−.

reactant | water | 32 mL | O | H2O
reactant | sulfuric acid | 16 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-(3-fluorophenoxy)-propan-1-ol | 36.1 mmol, 6.15 g | FC=1C=C(OCCCO)C=CC1 | C9H11FO2
reactant | 2-propanol | 70 mL | CC(C)O | C3H8O
solvent | acetone | 300 mL | CC(=O)C | C3H6O
catalyst | chromium trioxide | 145 mmol, 14.45 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | Acetone | 600 mL | CC(=O)C | C3H6O
product | 3-(3-Fluorophenoxy)-propionic acid | 6.00 g, 90% | FC=1C=C(OCCC(=O)O)C=CC1 | C9H9FO3
